US05919780
(8-Chloro-5,5-dioxo-5H-5λ6 -dibenzo[b,f][1,4]thiazepin-11-yl)-pyridin-3-ylmethyl-amine
A solution of 0.46 g (1.5 mmol) of 8-chloro-5,5-dioxo-dibenzo[b,f]-1,4-thiazepin-11(10H)-thione in 15 mL of 2-ethoxyethanol was treated with 0.3 mL (3.0 mmol) of 3-(aminomethyl)pyridine and heated at reflux overnight. An additional 0.4 mL of 3-(aminomethyl)pyridine was added and the refluxing continued another night. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with CHCl3 /MeOH (97/3) followed by precipitating the product from acetone with H2O gave an amorphous tan solid. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =384.

reactant | 8-chloro-5,5-dioxo-dibenzo[b,f]-1,4-thiazepin-11(10H)-thione | 1.5 mmol, 0.46 g | ClC1=CC2=C(S(C3=C(C(N2)=S)C=CC=C3)(=O)=O)C=C1 | C13H8ClNO2S2
reactant | 3-(aminomethyl)pyridine | 3.0 mmol, 0.3 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | 3-(aminomethyl)pyridine | 0.4 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | (8-Chloro-5,5-dioxo-5H-5λ6 -dibenzo[b,f][1,4]thiazepin-11-yl)-pyridin-3-ylmethyl-amine | ClC1=CC2=C(S(C3=C(C(=N2)NCC=2C=NC=CC2)C=CC=C3)(=O)=O)C=C1 | C19H14ClN3O2S
